US04060404
657 Parts of ethyl chloroformate and 945 parts of a 50% aqueous sodium hydroxide solution were added simultaneously to a solution of 504 parts of a 50% aqueous cyanamide solution in 825 parts of water at 25° during a period of 90 minutes and at a pH of 6.9 to 7.1. As the addition of the reactants progressed, the temperature of the reaction mass was allowed to rise to 53°-55° and was maintained within that range by cooling. When the addition was comlete, the reaction mass was cooled to 40°. Dimethylsulfate (1,134 parts) was then added during one hour with stirring while maintaining the pH at 7 to 7.1 by the addition of 50% aqueous sodium hydroxide solution. After holding 3 hours at 40° the resulting two-phase solution was transferred to a separatory funnel. The upper phase of N-ethoxycarbonyl-N-methylcyanamide was separated and the lower aqueous phase was sent to secondary recovery, either distillation or extraction. The upper phase of 669 parts was 93% N-ethoxycarbonyl-N-methylcyanamide (81% yield). This upper phase is usually pure enough for subsequent steps. However, vacuum distillation was used to provide pure N-ethoxycarbonyl-N-methylcyanamide, b.p. 67° at 2.2 mm.Hg.

reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | cyanamide | N#CN | CH2N2
reactant | Dimethylsulfate | COS(=O)(=O)OC | C2H6O4S
solvent | water | O | H2O
product | N-ethoxycarbonyl-N-methylcyanamide | 81% yield | C(C)OC(=O)N(C#N)C | C5H8N2O2
